US04172960
2,6-Dimethoxyphenol
2,6-Dibromophenol (14.5 g, 0.058 mole) was treated with sodium methoxide (from 10.3 g sodium, 0.45 g atom) in methanol (100 ml) and dimethylformamide (100 ml) in the presence of cuprous iodide (2 g) in the same way as described in detail for 2,6-dibromo-4-t-butylphenol in Example 9. The crude yield of title product was 5.4 g (60%), m.p. 53°-6° C. (literature gives 55°-6° C.). The lower yield may be explained by incomplete extraction, 2,6-dimethoxyphenol being to some extent water soluble.

reactant | 2,6-Dibromophenol | 0.058 mole, 14.5 g | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
reactant | sodium methoxide | 10.3 g | C[O-].[Na+]
reactant | 2,6-dibromo-4-t-butylphenol | BrC1=C(C(=CC(=C1)C(C)(C)C)Br)O | C10H12Br2O
solvent | methanol | 100 ml | CO | CH4O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,6-Dimethoxyphenol | COC1=C(C(=CC=C1)OC)O | C8H10O3
